2114-06-28 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tox recommended phenobarbitol 20 TID with uptitration to 30 TID if
   needed and continuing valium CIWA scale
   - Spoke with patient's primary psychiatrist who saw him last week.  At
   that time, he denied using GBL.  His psychiatrist is aware that
   administrative action is being taken against him and it is possible
   that he will be required to attend a detox program if he is to continue
   being a student.  His psychiatrist will let us know if this is being
   pursued.  His psychiatrist also questions if possibly he is bipolar,
   but difficult to assess in the setting of substance abuse and
   withdrawal.
   - The [**Male First Name (un) **] of [**University/College **] ([**First Name8 (NamePattern2) 509**] [**Last Name (NamePattern1) 8163**]) called looking for information about the
   patient, but nothing was passed along.
   -Per Mother, he has multiple "gelatinous" brain tumors which are at
   risk for causing hydrocephalus.  He is supposed to get q 6 month MRIs,
   but has not gotten one in over a year.
   - became hysterical and nearly code purpled at 5PM.  Responded to 5 of
   haldol IV and and additional 10 of valium IV.
   - Psychiatry also concerned that patient is bipolar at this is a manic
   episode. They emphasized the importance of sleeping.  They recommended
   haldol PO prn insomnia.
   - Tachycardia significantly improved from 120s to 50s/60s
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2114-6-27**] 05:00 PM
   Haloperidol (Haldol) - [**2114-6-27**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2114-6-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-6-28**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 56 (53 - 130) bpm
   BP: 110/95(99) {109/42(61) - 150/117(118)} mmHg
   RR: 17 (10 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,640 mL
                                                                    863 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                  2,110 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                  1,900 mL
   Urine:
                                                                  1,825 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,815 mL
                                                                 -1,038 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General: somnolent, intermittent twitching, arousable and able to
   follow commands.
   HEENT: Sclera anicteric but injected, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   +multiple tatoos throughout body.
   neuro: AAOx2 (did not know date), CN2-12 intact, +vertical and
   horizontal nystagmus?, motor [**3-27**] x4.
   Labs / Radiology
   167 K/uL
   14.0 g/dL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   40.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2114-6-28**]  02:46 AM
   WBC
   4.0
   Hct
   40.4
   Plt
   167
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:12.4/28.3/1.0, CK / CKMB / Troponin-T:124//,
   ALT / AST:18/20, Alk Phos / T Bili:55/1.5, Differential-Neuts:45.6 %,
   Lymph:42.4 %, Mono:6.8 %, Eos:4.7 %, Albumin:4.2 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   21 y/o M with hx of substance abuse and GBL abuse presents to the ED
   with suspected symptoms of withdrawal including tachycardia, tremors,
   twitching.
   .
   #drug abuse/withdrawal/ETOH-Pt with reported history of polysubstance
   drug abuse including ETOH, heroin, cocaine and GBL(GBH pro-drug). Pt
   with recent admissions for withdrawal of this substance which he makes
   at home from paint thinner.Pt also admitting to heavy ETOH use, last on
   monday. In the past, pt had  been admitted and treated with phenobarb
   30mg q8hr and valium CIWA scale.
   -toxicology c/s
   -psych c/s
   -sw c/s
   -agressive CIWA scale with valium for now. Phenobarb 15mg TID for now.
   Haldol prn agitation.
   .
   #altered mental status-like secondary to the above. Will monitor for
   other signs such as intracranial process, infection, seizure activity.
   -consider head CT if MS does not clear
   -infectious w/u.
   .
   #?colloid brain cysts
   -obtain [**Hospital1 586**] records and reports. Email will be sent to [**Hospital1 586**] re:
   neurosurg.
   .
   #urinary retention-unclear etiology, could be medication effect. Foley
   for now, U/A and CX. Will monitor.
   .
   #anion gap metabolic acidosis-Likely related to ETOH. Other
   possibilities include other injested substances.
   -ABG with lactate
   -serum osmols to calculate osmol gap. Gap is 48.2
   -monitor.
   .
   #sinus tachycardia-likely secondary to withdrawal from above substance.
   Will continue to monitor for signs of other causes such as fever, pain,
   hypovolemia, infection.
   -IVF
   -tele
   .
   # FEN: NPO until mental status clears
   # Prophylaxis: Subutaneous heparin/pneumoboots
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-6-27**] 08:38 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2114-06-28 10:56:00 Physician Attending Progress Note
Chief Complaint: GBL withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   21M with GBL addiction, presents with GBL withdrawal despite etoh
   intoxication:
   24 Hour Events:
   -started phenobarb per tox
   -agitated delirium last night, controlled with haldol
   -slept all night
   -valium this am
   -one dose haldol this am
   -urinary retention, now with foley (1500 residual)
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2114-6-27**] 05:00 PM
   Haloperidol (Haldol) - [**2114-6-27**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2114-6-27**] 08:00 PM
   Other medications:
   sqh, famotidine, nicotine patch, phenobarb, fa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Dysuria, Foley
   Musculoskeletal: No(t) Joint pain
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Numbness / tingling, Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-6-28**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36
C (96.8
   HR: 60 (53 - 130) bpm
   BP: 117/51(67) {109/42(61) - 150/117(118)} mmHg
   RR: 25 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,641 mL
                                                                  1,584 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                  2,111 mL
                                                                  1,584 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                  1,900 mL
   Urine:
                                                                  1,825 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,816 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t) Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Distended, No(t) Tender: , No(t)
   Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   167 K/uL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   40.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2114-6-28**]  02:46 AM
   WBC
   4.0
   Hct
   40.4
   Plt
   167
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:12.4/28.3/1.0, CK / CKMB / Troponin-T:124//,
   ALT / AST:18/20, Alk Phos / T Bili:55/1.5, Differential-Neuts:45.6 %,
   Lymph:42.4 %, Mono:6.8 %, Eos:4.7 %, Albumin:4.2 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   21M with GBL addiction, here with GBL withdrawal symptoms:
   GBL withdrawal
   -phenobarb, lower dose again
   -siwa scale, valium
   ?psychosis, ?primary psych disorder
   -haldol prn, esp at night for sleep
   -psych following
   -will need psych admit after stabilizes
   urinary retension: ?drug effect
   -check ua, um, culture
   -foley for now
   Brain MRI abnormalities
   -will clarify cyst
   -will email [**Hospital1 586**] neurosurgeon re notes
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2114-6-27**] 08:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Stay in ICU given q1h ciwa
   Total time spent: 35 minutes

2114-06-29 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -obtained OSH reports with MRI showing colloid cysts/neurosurg notes
   -pt with ?actual tremors vs. volitional
   -u/a and CX sent for urinary retention
   -pt's mom updated
   -pt carrying on, demanding "ativan", stating that he just wants to
   sleep over and over, eventhough he was. Started acting up ~7pm, given
   IV haldol, IV valium. Asking for risperdol, neurontin
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2114-6-28**] 07:31 PM
   Diazepam (Valium) - [**2114-6-28**] 08:58 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-6-29**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 68 (60 - 134) bpm
   BP: 104/67(76) {104/51(67) - 151/94(105)} mmHg
   RR: 22 (6 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,764 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  2,164 mL
   Blood products:
   Total out:
                                                                  6,465 mL
                                                                      0 mL
   Urine:
                                                                  6,465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,701 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General: somnolent, intermittent twitching, arousable and able to
   follow commands.
   HEENT: Sclera anicteric but injected, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   +multiple tatoos throughout body.
   neuro: AAOx2 (did not know date), CN2-12 intact, +vertical and
   horizontal nystagmus?, motor [**3-27**] x4.
   Labs / Radiology
   167 K/uL
   14.0 g/dL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   40.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2114-6-28**]  02:46 AM
   WBC
   4.0
   Hct
   40.4
   Plt
   167
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:12.4/28.3/1.0, CK / CKMB / Troponin-T:124//,
   ALT / AST:18/20, Alk Phos / T Bili:55/1.5, Differential-Neuts:45.6 %,
   Lymph:42.4 %, Mono:6.8 %, Eos:4.7 %, Albumin:4.2 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   .
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   21 y/o M with hx of substance abuse and GBL abuse presents to the ED
   with suspected symptoms of withdrawal including tachycardia, tremors,
   twitching.
   .
   #drug abuse/withdrawal/ETOH-Pt with reported history of polysubstance
   drug abuse including ETOH, heroin, cocaine and GBL(GBH pro-drug). Pt
   with recent admissions for withdrawal of this substance which he makes
   at home from paint thinner.Pt also admitting to heavy ETOH use, last on
   monday. In the past, pt had  been admitted and treated with phenobarb
   30mg q8hr and valium CIWA scale.
   -toxicology c/s
   -psych c/s
   -sw c/s
   -agressive CIWA scale with valium for now, will DC phenobarb and use
   haldol prn agitation.
   .
   #altered mental status-like secondary to the above. Will monitor for
   other signs such as intracranial process, infection, seizure activity.
   -consider head CT if MS does not clear
   -infectious w/u.
   .
   #?colloid brain cysts
   -obtain [**Hospital1 586**] records and reports. Pt will f/u in the outpt setting.
   Unless neuro exam changes.
   .
   #urinary retention-unclear etiology, could be medication effect. Foley
   for now, U/A and CX. Will monitor.
   .
   #anion gap metabolic acidosis-Likely related to ETOH. Other
   possibilities include other injested substances.
   -ABG with lactate
   -serum osmols to calculate osmol gap. Gap is 48.2
   -monitor.
   -resolved
   .
   #sinus tachycardia-likely secondary to withdrawal from above substance.
   Will continue to monitor for signs of other causes such as fever, pain,
   hypovolemia, infection.
   -IVF
   -tele
   -resolved.
   .
   # FEN: reg diet.
   # Prophylaxis: Subutaneous heparin/pneumoboots
   # Access: peripherals
   # Code- full
   # Communication: Patient
   # Disposition: likely call out to the floor
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-6-28**] 02:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-06-29 10:35:00 Physician Attending Progress Note
Chief Complaint: GBL withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   21M with GBL addiction, now with GBL withdrawal
   24 Hour Events:
   -acute agitation and delirium in the evening, treated with haldo and
   valium
   -requesting additional meds
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2114-6-28**] 07:31 PM
   Diazepam (Valium) - [**2114-6-28**] 08:58 PM
   Famotidine (Pepcid) - [**2114-6-29**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2114-6-29**] 08:13 AM
   Other medications:
   sqh, famotidine, nicotine, mvi, thiamine, valium -- 20 total in 24 hrs,
   haldol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-6-29**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 94 (59 - 134) bpm
   BP: 127/107(111) {102/56(67) - 151/107(111)} mmHg
   RR: 19 (6 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,764 mL
                                                                    200 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,164 mL
   Blood products:
   Total out:
                                                                  6,465 mL
                                                                    500 mL
   Urine:
                                                                  6,465 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,701 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   167 K/uL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   40.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2114-6-28**]  02:46 AM
   WBC
   4.0
   Hct
   40.4
   Plt
   167
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:12.4/28.3/1.0, CK / CKMB / Troponin-T:124//,
   ALT / AST:18/20, Alk Phos / T Bili:55/1.5, Differential-Neuts:45.6 %,
   Lymph:42.4 %, Mono:6.8 %, Eos:4.7 %, Albumin:4.2 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: no new imaging
   Assessment and Plan
   21M with GBL addiction, now with GBL withdrawal, improving with evening
   episodes of acute delirum:
   GBL addiction, withdrawal: doing well
   -cont prn valium, haldol, phenobarb
   -ciwa q4hr
   -psych and addiction follow-up
   -will discuss with psych re appropriate dispo
   colloid cyst
   -outpatient follow-up
   urinary retension resolved; no uti
   -ntd
   ICU Care
   Nutrition: eating
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2114-6-28**] 02:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2114-06-30 07:51:00 Physician Resident Progress Note
Chief Complaint: GBL withdrawal
   24 Hour Events:
   [**2114-6-29**]
   - doing well over course of the morning
   - psych added valproic acid to regimen
   - around 6 pm, got very aggitated and required multiple doses of both
   PO and IV haldol
   - had torticollis, responded to benadryl
   - called back in due to HRs in 130s for >2 hrs
   - very aggitated overnight, threatening to leave AMA, got total or 40
   mg IV and PO during acute episode
   - restarted phenobarbitol PRN (given x1)
   - calmed overnight after discussing restraints
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2114-6-29**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2114-6-29**] 08:13 AM
   Diazepam (Valium) - [**2114-6-29**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-6-30**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 77 (59 - 132) bpm
   BP: 114/66(77) {91/56(67) - 168/110(114)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    800 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                      0 mL
   Urine:
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: NAD, lying bed bed
   HEENT: EOMI, o/p clear
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: Soft, NT, ND, bowel sounds present
   Ext: no edema
   Labs / Radiology
   167 K/uL
   14.0 g/dL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   40.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2114-6-28**]  02:46 AM
   WBC
   4.0
   Hct
   40.4
   Plt
   167
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:12.4/28.3/1.0, CK / CKMB / Troponin-T:124//,
   ALT / AST:18/20, Alk Phos / T Bili:55/1.5, Differential-Neuts:45.6 %,
   Lymph:42.4 %, Mono:6.8 %, Eos:4.7 %, Albumin:4.2 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   21 y/o M with hx of substance abuse and GBL abuse presents to the ED
   with suspected symptoms of withdrawal including tachycardia, tremors,
   twitching.
   .
   #drug abuse/withdrawal/ETOH-Pt with reported history of polysubstance
   drug abuse including ETOH, heroin, cocaine and GBL(GBH pro-drug). Pt
   with recent admissions for withdrawal of this substance which he makes
   at home from paint thinner.Pt also admitting to heavy ETOH use, last on
   monday. In the past, pt had  been admitted and treated with phenobarb
   30mg q8hr and valium CIWA scale.
   -toxicology c/s
   -psych c/s
   -sw c/s
   -agressive CIWA scale with valium for now, will DC phenobarb and use
   haldol prn agitation.
   .
   #altered mental status-like secondary to the above. Will monitor for
   other signs such as intracranial process, infection, seizure activity.
   -consider head CT if MS does not clear
   -infectious w/u.
   .
   #?colloid brain cysts
   -obtain [**Hospital1 586**] records and reports. Pt will f/u in the outpt setting.
   Unless neuro exam changes.
   .
   #urinary retention-unclear etiology, could be medication effect. Foley
   for now, U/A and CX. Will monitor.
   .
   #anion gap metabolic acidosis-Likely related to ETOH. Other
   possibilities include other injested substances.
   -ABG with lactate
   -serum osmols to calculate osmol gap. Gap is 48.2
   -monitor.
   -resolved
   .
   #sinus tachycardia-likely secondary to withdrawal from above substance.
   Will continue to monitor for signs of other causes such as fever, pain,
   hypovolemia, infection.
   -IVF
   -tele
   -resolved.
   .
   # FEN: reg diet.
   # Prophylaxis: Subutaneous heparin/pneumoboots
   # Access: peripherals
   # Code- full
   # Communication: Patient
   # Disposition: likely call out to the floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-6-30**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2114-06-30 10:54:00 Physician Attending Progress Note
Chief Complaint: GBL withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   21M with GBL addiction and withdrawal, with ongoing benzo requirement
   for symptoms control
   24 Hour Events:
   -acute agitation, delirium, combativeness, requiring increasing doses
   of valium and phenobarb, but eventually controlled
   -torticullis, resolved with benadryl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2114-6-29**] 11:45 PM
   Other medications:
   sqh, valium 40 po, valium 40 iv, phenobarb 30 po once
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, No(t) Foley
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-6-30**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 86 (75 - 132) bpm
   BP: 110/91(96) {91/57(71) - 168/110(114)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    800 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                      0 mL
   Urine:
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, , Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   167 K/uL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   40.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2114-6-28**]  02:46 AM
   WBC
   4.0
   Hct
   40.4
   Plt
   167
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:12.4/28.3/1.0, CK / CKMB / Troponin-T:124//,
   ALT / AST:18/20, Alk Phos / T Bili:55/1.5, Differential-Neuts:45.6 %,
   Lymph:42.4 %, Mono:6.8 %, Eos:4.7 %, Albumin:4.2 g/dL, LDH:145 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Microbiology: ucx: gbs
   Assessment and Plan
   21M with GBL addiction and withdrawal, improving slowly
   -restart standing phenobarb
   -valium prn
   -dilantin standing per psych
   -no haldol
   Pt leaving AMA after extensive counseling advising continued
   hospitalization because of the risk of withdrawal. Psych aware of his
   decision to leave and believes he is competent to make this decision.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2114-6-30**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor later today if remains stable
   Total time spent: 35 minutes